US04647560
7-Chloro-5-phenyl-1,1'-dimethyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
0.6 g (0.0016 mole) of 7-chloro-5-phenyl-1'-methyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one are dissolved in 15 ml of absolute dimethylformamide and reacted with 0.1 g of sodium hydride (55-60% strength dispersion) at 70° C. After 30 minutes, the mixture is cooled to 25° C., 0.22 g (0.0016 mole) of methyl iodide in 10 ml of absolute dimethylformamide is added and the mixture is stirred for 2 hours. After the solvent has been distilled off, the residue is taken up in water and the mixture is extracted with methylene chloride. For purification, the product is chromatographed on aluminum oxide 90 (Merck), activity level II-III, with a cyclohexane/methylene chloride/methanol mixture (6:3:1), and the base thus obtained is converted into the hydrochloride by treatment with diethyl ether/HCl.

reactant | 7-chloro-5-phenyl-1'-methyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | 0.0016 mole, 0.6 g | ClC=1C=CC2=C(C(=NC3(CCN(CC3)C)C(N2)=O)C2=CC=CC=C2)C1 | C20H20ClN3O
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | methyl iodide | 0.0016 mole, 0.22 g | CI | CH3I
reactant | hydrochloride | Cl | ClH
reactant | diethyl ether HCl | C(C)OCC.Cl
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-5-phenyl-1,1'-dimethyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | ClC=1C=CC2=C(C(=NC3(CCN(CC3)C)C(N2C)=O)C2=CC=CC=C2)C1 | C21H22ClN3O
